US06610846B1
A solution of triphenylphosphine (393 mg, 1.5 mmol) in methylene chloride (10.0 mL) was cooled to 0° C. and then treated with N-bromosuccinimide (303 mg, 1.7 mmol). After stirring at 0° C. for 10 min, the reaction mixture was treated with 3-cyclopentyl-2-(4-methylsulfanyl-3-trifluoromethyl-phenyl)-propionic acid (332 mg, 1.0 mmol). The reaction mixture was stirred at 0° C. for 20 min and at 25° C. for 30 min. At this time, the reaction mixture was treated with 2-amino-5-nitropyridine (290 mg, 1.5 mmol) and pyridine (0.14 mL, 1.8 mmol). The resulting reaction mixture was stirred at 25° C. for 20 h. The reaction mixture was then concentrated in vacuo. Flash chromatography (Merck Silica gel 60, 200-400 mesh, 90/10 hexanes/ethyl acetate) afforded 3-cyclopentyl-2-(4-methylsulfanyl-3-trifluoromethyl-phenyl)-N-(5-nitro-pyridin-2-yl)-propionamide (425 mg, 60%) as an off-white solid: mp 109-110° C.; EI-HRMS m/e calcd for C21H22F3N3O3S (M+) 453.1334, found 453.1334.

reactant | triphenylphosphine | 1.5 mmol, 393 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | N-bromosuccinimide | 1.7 mmol, 303 mg | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | 3-cyclopentyl-2-(4-methylsulfanyl-3-trifluoromethyl-phenyl)-propionic acid | 1.0 mmol, 332 mg | C1(CCCC1)CC(C(=O)O)C1=CC(=C(C=C1)SC)C(F)(F)F | C16H19F3O2S
reactant | 2-amino-5-nitropyridine | 1.5 mmol, 290 mg | NC1=NC=C(C=C1)[N+](=O)[O-] | C5H5N3O2
reactant | pyridine | 1.8 mmol, 0.14 mL | N1=CC=CC=C1 | C5H5N
solvent | methylene chloride | 10.0 mL | C(Cl)Cl | CH2Cl2
product | 3-cyclopentyl-2-(4-methylsulfanyl-3-trifluoromethyl-phenyl)-N-(5-nitro-pyridin-2-yl)-propionamide | 425 mg, 60% | C1(CCCC1)CC(C(=O)NC1=NC=C(C=C1)[N+](=O)[O-])C1=CC(=C(C=C1)SC)C(F)(F)F | C21H22F3N3O3S
